US06177419B1
6-(2-Hydroxyphenyl)-6′-(2-hydroxy-4-methylphenyl)-2,2′-bipyridine was prepared from 6-bromo-6′-(2-hydroxy-4-methylphenyl)-2,2′-bipyridine and 2-hydroxyphenylboronic acid in 68% yield using method F; δH [2H6]-DMSO 13.55,(1H, b), 13.39,(1H, b), 8.38-8.32,(4H, m), 8.30-8.20,(4H, m), 8.13,(3H, d), 8.03,(1H, d), 7.37,(1H, t), 7.00,(2H, m), 6.81,(2H, m), 2.30,(3H, s); MS 355 (MH)+; HPLC retention time (system 1) 4.34 minutes.

reactant | 6-bromo-6′-(2-hydroxy-4-methylphenyl)-2,2′-bipyridine | BrC1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C=C(C=C1)C)O | C17H13BrN2O
reactant | 2-hydroxyphenylboronic acid | OC1=C(C=CC=C1)B(O)O | C6H7BO3
product | 6-(2-Hydroxyphenyl)-6′-(2-hydroxy-4-methylphenyl)-2,2′-bipyridine | 68% yield | OC1=C(C=CC=C1)C1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C=C(C=C1)C)O | C23H18N2O2
